US07781598B2
Trichloroisocyanuric acid (0.13 g, 0.56 mmol) was added to a solution of bis(p-chlorophenyl)disulphide (0.47 g, 1.6 mmol) in ethyl acetate (5 ml) at ambient temperature resulting in formation of a yellow suspension. After stirring for 15 minutes at this temperature, a slurry of (4-acetylamino-2-methyl-1H-indol-1-yl)acetic acid (0.80 g, 3.2 mmol) in ethyl acetate (10 ml) was added followed by an ethyl acetate rinse (5 ml), using water bath cooling to control the mild exotherm. Stirring was continued for 1 h 15 minutes at ambient temperature. The solid product was collected by filtration, washed with ethanol (2×10 ml) then dried overnight in a vacuum oven at 45° C. to provide [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetic acid as an off-white solid, 1.22 g (97%).

reactant | Trichloroisocyanuric acid | 0.56 mmol, 0.13 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
reactant | bis(p-chlorophenyl)disulphide | 1.6 mmol, 0.47 g | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
reactant | (4-acetylamino-2-methyl-1H-indol-1-yl)acetic acid | 3.2 mmol, 0.80 g | C(C)(=O)NC1=C2C=C(N(C2=CC=C1)CC(=O)O)C | C13H14N2O3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetic acid | C(C)(=O)NC1=C2C(=C(N(C2=CC=C1)CC(=O)O)C)SC1=CC=C(C=C1)Cl | C19H17ClN2O3S
